US06057311
Preparation of (3R,5S)-4-acetyl-3-(1-adamantyl)methyl-1-(4-methylbenzyl)-5-carboxymethylaminocarbonyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine
The compound was prepared by an identical route to that used to prepare example 22 except that (3R,5S)-4-acetyl-3-(1-adamantyl)methyl-1-(4-methylbenzyl)-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine-5-carboxylate was used in step a in place of (3R,5S)-4-acetyl-3-(1-adamantyl)methyl-1-benzyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine-5-carboxylate

reactant | (3R,5S)-4-acetyl-3-(1-adamantyl)methyl-1-(4-methylbenzyl)-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine-5-carboxylate | C(C)(=O)N1[C@@H](C(N(C2=C(C(C[C@H]1C(=O)[O-])=O)C=CC=C2)CC2=CC=C(C=C2)C)=O)CC21CC3CC(CC(C2)C3)C1
reactant | (3R,5S)-4-acetyl-3-(1-adamantyl)methyl-1-benzyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine-5-carboxylate | C(C)(=O)N1[C@@H](C(N(C2=C(C(C[C@H]1C(=O)[O-])=O)C=CC=C2)CC2=CC=CC=C2)=O)CC21CC3CC(CC(C2)C3)C1
product | (3R,5S)-4-acetyl-3-(1-adamantyl)methyl-1-(4-methylbenzyl)-5-carboxymethylaminocarbonyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine | C(C)(=O)N1[C@@H](C(N(C2=C(C(C[C@H]1C(=O)NCC(=O)O)=O)C=CC=C2)CC2=CC=C(C=C2)C)=O)CC21CC3CC(CC(C2)C3)C1 | C35H41N3O6
